Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
___:
VT Ablation

 
History of Present Illness:
Ms. ___ is a ___ year old female with a past medical
history notable for hypothyroidism, eczema, VT s/p ablation
(___) who presents for recurrence of palpitations. 

Patient had a recent admission ___ to ___ at ___ for
palpitations and dizziness during which she was found to have VT
s/p ablation on ___. Patient represented to ___
on ___ with recurrent palpitations and was found to have short
runs of NSVT. 

On the floor, the patient states that she feels well and does
not have any acute complaints. She denies chest pain, SOB,
palpitations. She states she's had no syncope or near syncope
since prior to ablation. She states that she typically is very
active (gardening, shoveling snow, and cooking).

 
Past Medical History:
Hypothyroidism
Eczema    
VT s/p ablation ___                   
 
Social History:
___
Family History:
Her father died at the age of around ___ and had
heart failure and required a pacemaker, mother died of
complications related to multiple sclerosis                      

 
Physical Exam:
ON ADMISSION:
===============
Vital Signs: 24 HR Data (last updated ___ @ 349)
Temp: 97.6 (Tm 97.7), BP: 114/61 (114-136/61-78), HR: 56 
(56-57),
RR: 18, O2 sat: 98%, O2 delivery: RA, Wt: 135.6 lb/61.51 kg
(135.6-137.6)  
General: well appearing, pleasant, in no acute distress.
HEENT: sclerae anicteric, mucous membranes moist
NECK:  jugular venous pulsations seen at 2 cm above the sternal
angle
CHEST: Lungs clear to auscultation bilaterally, no wheezes, 
rales
or rhonchi, no dullness to percussion
CARDIAC: Regular rate and rhythm, normal S1/S2, no rubs, gallops
or murmurs
ABDOMEN: Soft, nontender, nondistended
EXT/VASC: warm and well perfused, no clubbing, cyanosis or edema
NEURO: CNII-XII grossly tested and intact. AOx3

ON DISCHARGE:
===============
VS:
24 HR Data (last updated ___ @ 507)
 Temp: 98.0 (Tm 98.4), BP: 115/65 (93-120/56-76), HR: 67
(55-72), RR: 20 (___), O2 sat: 100% (97-100), O2 delivery: RA
Wt: 134.26 lb/60.9 kg 

Fluid Balance:
___ PO Amt: 50ml 
___ Urine Amt: 500ml 

Tele: SB-SR 50's

Physical Examination:
General: Awake, pleasant lying in bed, NAD
Neuro: Alert and oriented x4. Pleasant and cooperative. PERRLA
@3mm. Speech clear, appropriate and comprehensible. Tongue
midline, smile symmetric. Equal and strong hand grasps and foot
pushes. 
HEENT: Neck supple, No JVD noted
CV: RRR, Normal S1 S2
Lungs: Clear ___, posterior and anteriorly, non-labored. No use 
of
accessory muscles noted.
Abdomen: soft, non-tender, + BS x4
PV: WWP, No edema, Palpable Pedal pulses ___. 
Access sites: Right femoral access site with ecchymosis
appreciated prior to procedure today; soft, non tender. Post
procedure bilateral femoral access sites soft without hematoma,
bleeding or bruit. 

 
Pertinent Results:
LABS ON ADMISSION:
===================
___ 05:44AM BLOOD WBC-5.3 RBC-3.68* Hgb-10.9* Hct-34.8 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.4 RDWSD-49.8* Plt ___
___ 05:44AM BLOOD ___ PTT-31.0 ___
___ 05:44AM BLOOD Glucose-89 UreaN-16 Creat-0.7 Na-141 
K-4.3 Cl-104 HCO3-24 AnGap-13
___ 05:44AM BLOOD Calcium-9.4 Phos-4.0 Mg-2.0

LABS ON DISCHARGE:
=====================
___ 05:36AM BLOOD WBC-5.6 RBC-3.85* Hgb-11.7 Hct-36.3 
MCV-94 MCH-30.4 MCHC-32.2 RDW-14.3 RDWSD-49.0* Plt ___
___ 05:44AM BLOOD WBC-5.3 RBC-3.68* Hgb-10.9* Hct-34.8 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.4 RDWSD-49.8* Plt ___
___ 05:36AM BLOOD Plt ___
___ 05:36AM BLOOD ___
___ 05:36AM BLOOD UreaN-16 Creat-0.8 Na-143 K-4.4 Cl-102 
HCO3-25 AnGap-16
___ 05:36AM BLOOD Mg-2.1
 
Brief Hospital Course:
 Ms. ___ is a ___ year old female with a past medical 
history notable for hypothyroidism, eczema, VT s/p ablation 
(___) who presents for recurrence of palpitations and short 
runs of NSVT at ___. She was started on metoprolol 
at OSH, which has since been stopped. She was transferred to 
___ on ___ and underwent a VT ablation on ___ 
without any complications. Bilateral femoral vein access sites 
were without complications. There was some mention of atrial 
fibrillation at outside hospital as reported by the patient, 
however there is no documentation or strips confirming. She has 
not had any atrial fibrillation per telemetry review here, so we 
are discharging her on an event monitor. She will follow-up with 
PCP and EP as scheduled. 
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO QAM 
2. Fish Oil (Omega 3) 1000 mg PO BID 

 
Discharge Medications:
1.  Fish Oil (Omega 3) 1000 mg PO BID  
2.  Levothyroxine Sodium 25 mcg PO QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
VT 
Hypothyroidism
  

 
Discharge Condition:
24-hour events: VT Ablation today 
 
Subjective: "I feel pretty good! Can I go home?" 
 
ROS: negative unless noted below 
[] CP 
[] SOB 
[] Pain 
[] Dizziness 
[] Headache 
[] Nausea/Vomiting 
[] Decreased appetite 
 
24-hour data: 
 
VS: 
24 HR Data (last updated ___ @ 507) 
 Temp: 98.0 (Tm 98.4), BP: 115/65 (93-120/56-76), HR: 67 
(55-72), RR: 20 (___), O2 sat: 100% (97-100), O2 delivery: RA 
Wt: 134.26 lb/60.9 kg  
 
Fluid Balance: 
___ PO Amt: 50ml  
___ Urine Amt: 500ml  
 
Tele: SB-SR 50's 
 
LABS: 
___ 05:36AM BLOOD WBC: 5.6 RBC: 3.85* Hgb: 11.7 Hct: 36.3 
MCV: 94 MCH: 30.4 MCHC: 32.2 RDW: 14.3 RDWSD: 49.0* Plt Ct: 336  

___ 05:36AM BLOOD ___: 11.4 ___: 1.1  
___ 05:36AM BLOOD UreaN: 16 Creat: 0.8 Na: 143 K: 4.4 Cl: 
102 HCO3: 25 AnGap: 16  
___ 05:36AM BLOOD Mg: 2.1  
 
CURRENT MEDICATIONS: 
--------------- --------------- --------------- --------------- 
Active Inpatient Medication list as of ___ at 1200: 
 
Medications - Standing 
Sodium Chloride 0.9% Flush ___ mL IV Q8H and PRN, line flush 
Heparin 5000 UNIT SC BID 
Levothyroxine Sodium 25 mcg PO/NG QAM 
--------------- --------------- --------------- --------------- 
 
Physical Examination: 
General: Awake, pleasant lying in bed, NAD 
Neuro: Alert and oriented x4. Pleasant and cooperative. PERRLA 
@3mm. Speech clear, appropriate and comprehensible. Tongue 
midline, smile symmetric. Equal and strong hand grasps and foot 
pushes.  
HEENT: Neck supple, No JVD noted 
CV: RRR, Normal S1 S2 
Lungs: Clear ___, posterior and anteriorly, non-labored. No use 
of 
accessory muscles noted. 
Abdomen: soft, non-tender, + BS x4 
PV: WWP, No edema, Palpable Pedal pulses ___.  
Access sites: Right femoral access site with ecchymosis 
appreciated prior to procedure today; soft, non tender. Post 
procedure bilateral femoral access sites soft without hematoma, 
bleeding or bruit.  
 
ASSESSMENT/PLAN:  
Ms. ___ is a ___ year old female with a past medical 
history notable for hypothyroidism, eczema, VT s/p ablation 
(___) who presents for recurrence of palpitations and short 
runs of NSVT and is now s/p VT ablation today. 
 
#VT s/p ablation ___ 
#Palpitations 
s/p VT ablation on ___. Presented to ___ on 
___ with palpitations and documented runs of NSVT. She 
underwent repeat VT ablation today. Plan as follows per Dr. 
___ 
___  
-No medication changes 
-Discharge home on event monitor 
-Follow-up as scheduled with PCP, ___ and Dr. ___ 
___ 
 
#Hypothyroidism  
- Continue home levothyroxine  
 
 # PROPHYLAXIS:  
 - DVT prophylaxis with: Heparin SQ 
 - Pain management with: Tylenol PRN 
 - Bowel regimen with Senna/Colace  
 
Dispo: Discharge home tonight if access sites are stable. 
 
 Anticipate:  
 [x] d/c home 
 [] d/c home with services 
 [] d/c to rehab/LTC 
 
** Above plan reviewed and discussed with ___ 
** Above plan discussed with Ms. ___ who agrees and prefers 
to 
go home tonight as she has family able to stay the night with 
her 
tonight. All questions answered to patients satisfaction. 
 
 
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive. 
Activity Status: Ambulatory - Independent 

 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
-  You were admitted to ___ with ventricular tachycardia.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You had a ventricular tachycardia ablation on ___. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Take all of your medications without changes. 
- Follow up with your doctors as ___ below  
- Care and restrictions of your bilateral femoral/groin access 
sites have been provided per nursing.
- Weigh yourself every morning, seek medical attention if your 
weight goes up more than 3 lbs.  
- Your weight at discharge is 134.3 lbs.
- Please weigh yourself today at home and use this as your new  
baseline    

 It was a pleasure participating in your care. 
 
 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, you may call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

 -Your ___ Care Team  
 

 
Followup Instructions:
___